data/pmechdb/original/mc_train_fold0/raw/train.txt
CCCCC[C:11]#[C:10]CC(CCCCC)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CCCCC[C+:11]=[C:10]1CC(C[N:21]([CH2:20]1)CC2=CC=CC=C2)CCCCC 10,11=10,20;20,21=21
[Li:10][O+:11]=CCP(=O)(OC)OC>>[Li+:10].COP(=O)(CC=[O:11])OC 10,11=11
[H:20][O:21]S(=O)(=O)O.CC(=O)CC(C)(C)[OH:10]>>[H:20][OH+:10]C(C)(C)CC(=O)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:10][C:11]1(CCC(CC1CC)CC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CC)CC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][Cl:21].C[N:14]1[C:13]2=[C:12](C=CC=C2)[C:11]3=[C:10]1C(NCC3)CC4=CC(=C(C=C4)O)O>>[H:20][C:10]12C(NCC[C:11]1=[C:12]3C=CC=C[C:13]3=[N+:14]2C)CC4=CC(=C(C=C4)O)O.[Cl-:21] 10,11=10,20;20,21=21;12,13=11,12;14=13
[H:20][O:21]C(C)C.CC(C)CC1CCC2C1(CCC3C2CC=C4C3(CCC(C4)O[Al-](OC(C)C)(OC(C)C)[O:10]C(C)C)C)C.CC(=O)C>>[H:20][O+:10](C(C)C)[Al-](OC1CCC2(C3CCC4(C(CCC4C3CC=C2C1)CC(C)C)C)C)(OC(C)C)OC(C)C.CC(C)[O-:21].CC(=O)C 10=20;20,21=21
CC[CH:20]=[O+:21][Ti-](Cl)(Cl)(Cl)Cl.C[C:11](=[CH2:10])[O:12][Si](C)(C)C>>CC[CH:20]([CH2:10][C:11](=[O+:12][Si](C)(C)C)C)[O:21][Ti-](Cl)(Cl)(Cl)Cl 10,11=10,20;20,21=21;12=11
C[CH:10]=[C:11]([OH:12])Br.[Br:20][Br:21]>>C[CH:10]([C:11](=[OH+:12])Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
C[C:11]1=[CH:10]OC=C1.[Br:20][Br:21]>>C[C+:11]1C=CO[CH:10]1[Br:20].[Br-:21] 10,11=10,20;20,21=21
CCCC1CCC2C1(CCC3C2C[CH+:20]C45C3(CCC4C5)C)C.C[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCCC1CCC2C1(CCC3C2C[CH:20](C45C3(CCC4C5)C)[OH+:10]C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20,
[H:20][O+:21]=CC1=C(N=CS1)Cl.[OH2:10].C1CCOC1.C1COCCO1.C(CO)O.[Cl-]>>[H:20][OH2+:10].C1=NC(=C(S1)C=[O:21])Cl.C1CCOC1.C1COCCO1.C(CO)O.[Cl-] 10=20;20,21=21
[H:20][OH:21].CC(C)CC(CC1CCCCC1)[O-:10].[Li+].CCCC[Al](CC(C)C)CC(C)C>>[H:20][O:10]C(CC1CCCCC1)CC(C)C.[OH-:21].[Li+].CCCC[Al](CC(C)C)CC(C)C 10=20;20,21=21
[H:20][CH:21](CC(=O)C)[C:22](=[NH+:23]C1=C(C=CC=C1)Br)C.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CC(=O)C[CH:21]=[C:22](C)[NH:23]C1=C(C=CC=C1)Br.O 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].CC([NH:10]C)(O)O>>[H:20][NH+:10](C)C(C)(O)O.[OH2:21] 10=20;20,21=21
C([CH:10]=[CH:11][OH:12])O.[Br:20][Br:21]>>C([CH:10]([CH:11]=[OH+:12])[Br:20])O.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH+:21][Na].CC[O-:10].CC(=O)O[Na]>>[H:20][O:10]CC.[OH:21][Na].CC(=O)O[Na] 10=20;20,21=21
CC1=CC[C:20]([NH:10]1)(C2=CC(=CC(=C2)C3=CC=C(N3)C)C4=CC=C(N4)C)[OH2+:21].CC(=O)[O-].C(=O)[O-].O>>CC1=CC[C:20](=[NH+:10]1)C2=CC(=CC(=C2)C3=CC=C(N3)C)C4=CC=C(N4)C.[OH2:21].CC(=O)[O-].C(=O)[O-].O 10=20;20,21=21
[H:10][CH2:11][CH:12](C)[Mg-:13]([O+:21]=[C:20](CC)C(C)C)Cl>>[H:10][C:20](CC)(C(C)C)[O:21][Mg:13]Cl.C[CH:12]=[CH2:11] 10,11=10,20;20,21=21;12,13=11,12
C[C:10](=[S:11])C>>C[C+:10](C)[S-:11] 10,11=11
[H:20][CH:21]1C2=C(C3=C([C:22]1(C=O)[OH2+:23])C=CC=C3)OCC2.C[OH:10]>>[H:20][OH+:10]C.C1COC2=C1[CH:21]=[C:22](C3=C2C=CC=C3)C=O.[OH2:23] 10=20;22,23=23;20,21=21,22
[H:20][CH:21]1CC2C3CC4=C5C2(CCN3C)C([C:22]1=[OH+:23])OC5=C(C=C4)OC.C[N:10]1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=O)CC4.CO.COC=[O+]C>>[H:20][N+:10]1(CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=O)CC4)C.CN1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3[C:22](=[CH:21]C4)[OH:23].CO.COC=[O+]C 10=20;22,23=23;20,21=21,22
CN(CC1C2=C([C:13](=[CH:12][CH:11]=[CH:10]2)[O:14]CC3=CC=CC=C3)OC4=CC(=C(C=C14)OC)OC)C(=O)[CH:20]=[S+:21]C.C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)[O-]>>CN1CC2C3=CC(=C(C=C3OC4=C2[CH:10]([CH:11]=[CH:12][C:13]4=[O+:14]CC5=CC=CC=C5)[CH:20](C1=O)[S:21]C)OC)OC.C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21;12,13=11,12;14=13
C[Si-:10]1(CC[O:11]1)(C)C>>C[Si:10](C)(C)CC[O-:11] 10,11=11
[H:20][OH2+:21].CCNC[CH:10]=[CH:11][O-:12]>>[H:20][CH:10](CNCC)[CH:11]=[O:12].[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][N+:21]1=C2C(=C(C=C1C)C)C=CC3=C2N=CN3.CC(=O)[O-].[OH2:10]>>[H:20][OH2+:10].CC1=CC(=C2C=CC3=C(C2=[N:21]1)N=CN3)C.CC(=O)[O-] 10=20;20,21=21
CC[CH:10](C)[O:11]S(=O)(=O)C(F)(F)F>>CC[CH+:10]C.C(F)(F)(F)S(=O)(=O)[O-:11] 10,11=11
[H:20][O:21]C(=O)CCCC(=C(F)F)F.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)OC2=CC(=CC=C2)CO>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C(CC(=C(F)F)F)CC(=O)[O-:21].C1=CC=C(C=C1)OC2=CC(=CC=C2)CO 10=20;20,21=21
CC[NH+:21](CC)[CH:20](C)[NH:10]C>>CC[NH:21]CC.C[CH:20]=[NH+:10]C 10=20;20,21=21
C[Si]1(CCC2[CH:10](C1)[OH+:11]2)C.CC1=CC=C(C=C1)C(=O)[O-]>>C[Si]1(CCC([CH+:10]C1)[OH:11])C.CC1=CC=C(C=C1)C(=O)[O-] 10,11=11
CO[C:20]([OH:21])([O-:10])OC>>CO[C:20](=[O:10])OC.[OH-:21] 10=20;20,21=21
CC(C)CC(C(=O)OCC1=CC=CC=C1)[N+:21]#[C:20]C(C(C)NC(=O)OCC2C3=C(C=CC=C3)C4=CC=CC=C24)O.CC(C)(C)OC(=O)NC(CCCNC(=O)OCC1=CC=CC=C1)C(=O)[O-:10]>>CC(C)CC(C(=O)OCC1=CC=CC=C1)[N:21]=[C:20](C(C(C)NC(=O)OCC2C3=C(C=CC=C3)C4=CC=CC=C24)O)[O:10]C(=O)C(CCCNC(=O)OCC5=CC=CC=C5)NC(=O)OC(C)(C)C 10=20;20,21=21
CC#C[C:20](C)([O-:10])[Cl:21]>>CC#C[C:20](=[O:10])C.[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1CCCCC1(N2CCCC2)[O-:10]>>[H:20][O:10]C1(CCCCC1C)N2CCCC2.OS(=O)(=O)[O-:21] 10=20;20,21=21
